US04352818
2.5 g (10.4 mmol) of (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 20 ml of dimethylformamide are stirred at room temperature for 30 minutes with 1.86 g (10.4 mmol) of N-bromosuccinimide. The solution is poured into water and extracted with chloroform. The chloroform extracts are washed several times with water, dried over magnesium sulphate and evaporated. After two-fold recrystallization from ethyl acetate, there is obtained (S)-1-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 225°-226°.

reactant | (S)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 10.4 mmol, 2.5 g | C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H13N3O
reactant | N-bromosuccinimide | 10.4 mmol, 1.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | BrC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H12BrN3O
